US04101658
A solution of 3-[2-(N-tertiary butoxycarbonylglycyl)hydrazono]methyl-7-(2-thienylacetamido)-3-cephem-4-carboxylic acid (120 mg) in a mixture of anisole (0.6 ml) and trifluoroacetic acid (1.2 ml) is kept at 0° C for 1 hour. The reaction mixture is concentrated to remove trifluoroacetic acid, and the obtained residue is diluted with ether. The separated crystals are washed with ether and water and dried to give 3-(2-glycylhydrazono)methyl-7-(2-thienylacetamido)-3-cephem-4-carboxylic acid (60 mg). m.p. 204°-209° C (decomposition). Yield: 62%. IR: νmax Nujol 3260, 1767, 1660, 1600, 1585cm-1. UV: νmaxEtOH 235nm; 316nm (Saturated solution). NMR: δd 6-DMSO 3.58s2H, 3.9dd2H, 5.17d(4Hz)1H, 5.75dd(8;4Hz)1H, 6.80-7.47m3H, 8.20s1H, 9.13d(8Hz)1H.

reactant | 3-[2-(N-tertiary butoxycarbonylglycyl)hydrazono]methyl-7-(2-thienylacetamido)-3-cephem-4-carboxylic acid | 120 mg | C(C)(C)(C)OC(=O)NCC(=O)NN=CC=1CS[C@H]2N(C1C(=O)O)C(C2NC(CC=2SC=CC2)=O)=O | C21H25N5O7S2
solvent | anisole | 0.6 ml | C1(=CC=CC=C1)OC | C7H8O
solvent | trifluoroacetic acid | 1.2 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 3-(2-glycylhydrazono)methyl-7-(2-thienylacetamido)-3-cephem-4-carboxylic acid | 60 mg, Yield: 62% | NCC(=O)NN=CC=1CS[C@H]2N(C1C(=O)O)C(C2NC(CC=2SC=CC2)=O)=O | C16H17N5O5S2
